US07749999B2
4-(5-Bromo-pyridin-2-ylmethyl)-morpholine.
Thionyl chloride (0.57 g, 5 mmol) in DCM (2 mL) was added dropwise to a stirred solution of (5-bromo-pyridin-2-yl)-methanol (0.3 g, 1.59 mmol) in DCM (5 mL) while cooling to 0° C. The mixture was allowed to warm to room temperature and, after 1 h, evaporated to low volume in vacuo. The residue was dissolved in CHCl3, and a solution of morpholine (0.41 g, 5 mmol) in CHCl3 was added at 0° C. After 3 h, the reaction was completed. The solvent was evaporated and addition of ether afforded the target compound (85%) as a white solid. Calculated mass=257. Observed mass=258

reactant | Thionyl chloride | 5 mmol, 0.57 g | S(=O)(Cl)Cl | Cl2OS
reactant | (5-bromo-pyridin-2-yl)-methanol | 1.59 mmol, 0.3 g | BrC=1C=CC(=NC1)CO | C6H6BrNO
reactant | morpholine | 5 mmol, 0.41 g | N1CCOCC1 | C4H9NO
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 4-(5-Bromo-pyridin-2-ylmethyl)-morpholine | 85% | BrC=1C=CC(=NC1)CN1CCOCC1 | C10H13BrN2O
